US08030337B2
N-[2-(7,8-Dihydro-6H-indeno[5,4-d][1,3]oxazol-8-yl)ethyl]acetamide
N-[2-(6,7-Dihydro-8H-indeno[5,4-d][1,3]oxazol-8-ylidene)ethyl]acetamide (19.0 mg, 0.0784 mmol) was dissolved in methanol (1 mL), a 10% palladium-carbon powder (10 mg) was added, and the mixture was stirred at room temperature for 1 hr under a hydrogen atmosphere. The catalyst was filtered off using celite, and the filtrate was concentrated under reduced pressure. The residue was purified by silica gel column chromatography (ethyl acetate/methanol=90/10) to give the title compound (16.0 mg, yield 84%).

reactant | N-[2-(6,7-Dihydro-8H-indeno[5,4-d][1,3]oxazol-8-ylidene)ethyl]acetamide | 0.0784 mmol, 19.0 mg | O1C=NC2=C1C=1C(CCC1C=C2)=CCNC(C)=O | C14H14N2O2
solvent | methanol | 1 mL | CO | CH4O
catalyst | palladium-carbon | 10 mg | [C].[Pd]
product | N-[2-(7,8-Dihydro-6H-indeno[5,4-d][1,3]oxazol-8-yl)ethyl]acetamide | 16.0 mg, yield 84% | O1C=NC2=C1C=1C(CCC1C=C2)CCNC(C)=O | C14H16N2O2
